US06229026B1
5-(2-Propyloxycarbonyl)phthalid
Method B): 5-Ethoxycarbonylphthalid (52 g, 0.25 mole) is suspended in 2-propanol (1000 mL). Ti(iPro)4 (38 g, 0.14 mole) is added and the mixture is refluxed for 3 hours. The reaction mixture is cooled to 0° C. and the crystals are filtered off and washed with cold 2-propanol (70 mL). Yield: 47 g, 85%. DSC onset 144° C.

reactant | 5-Ethoxycarbonylphthalid | 0.25 mole, 52 g | C(C)OC(=O)C=1C=C2COC(=O)C2=CC1 | C11H10O4
reactant | 2-propanol | 1000 mL | CC(C)O | C3H8O
product | 5-(2-Propyloxycarbonyl)phthalid | CC(C)OC(=O)C=1C=C2COC(=O)C2=CC1 | C12H12O4
